US07615642B2
Step I. 1-({2-tert-Butyl-1-[(4-fluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)-1H-pyrrole-3-carbaldehyde
NaH (0.19 g, 60%, 4.8 mmol) was added to a solution of 1H-pyrrole-3-carbaldehyde (0.13 g, 1.4 mmol) in THF (30 mL) at 0° C. The reaction mixture was allowed to warm to ambient temperature, stirred for 1 h and cooled to 0° C. 2-tert-Butyl-1-[(4-fluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride (0.37 g, 0.96 mmol) was added to the reaction mixture and stirred for 1 h. The reaction mixture was quenched with saturated NaHCO3 solution (30 mL) and the solvent was concentrated. Water (50 mL) was added to the residue and the product was extracted with DCM (workup). The solvent was concentrated and the product was purified by MPLC on silica gel using 50-80% EtOAc/heptane to provide the title compound as white solid. Yield: 0.25 g (57%); MS (ESI) (M+H)+=445.9.

reactant | NaH | 4.8 mmol, 0.19 g | [H-].[Na+]
reactant | 1H-pyrrole-3-carbaldehyde | 1.4 mmol, 0.13 g | N1C=C(C=C1)C=O | C5H5NO
reactant | 2-tert-Butyl-1-[(4-fluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride | 0.96 mmol, 0.37 g | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)F)C=CC(=C2)S(=O)(=O)Cl | C18H24ClFN2O2S
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-({2-tert-Butyl-1-[(4-fluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)-1H-pyrrole-3-carbaldehyde | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)F)C=CC(=C2)S(=O)(=O)N2C=C(C=C2)C=O | C23H28FN3O3S
